US08685970B2
A solution of 6-(3-(trifluoromethoxy)phenyl)pyrido[3,2-d]pyrimidin-4-ol (1.2 g, 3.9 mmol) in SOCl2 (10 mL) was refluxed for 2 hours. The reaction was concentrated under reduce pressure, and the residue was chased with toluene (10 mL) to obtain 4-chloro-6-(3-(trifluoromethoxy)phenyl)pyrido[3,2-d]pyrimidine as a brown solid. Used as is without further purification.

reactant | 6-(3-(trifluoromethoxy)phenyl)pyrido[3,2-d]pyrimidin-4-ol | 3.9 mmol, 1.2 g | FC(OC=1C=C(C=CC1)C=1C=CC=2N=CN=C(C2N1)O)(F)F | C14H8F3N3O2
reactant | SOCl2 | 10 mL | O=S(Cl)Cl | Cl2OS
product | 4-chloro-6-(3-(trifluoromethoxy)phenyl)pyrido[3,2-d]pyrimidine | ClC=1C2=C(N=CN1)C=CC(=N2)C2=CC(=CC=C2)OC(F)(F)F | C14H7ClF3N3O
